US08207213B2
Ethyl(4-{1,3-dioxo-4,9-bis[(phenylmethyl)oxy]-1,3-dihydro-2H-benzo[f]isoindol-2-yl}phenyl)acetate
A mixture of 1,4-bis[(phenylmethyl)oxy]-2,3-naphthalenedicarboxylic acid (2.0 g, 4.67 mmol) and ethyl(4-aminophenyl)acetate (1.67 g, 9.35 mmol) were heated to 120° C. in acetic acid (30 ml) for 2 hours. The mixture solidified on standing at room temperature overnight. Water was added and the solid collected by filtration and washed with water. This was dried under vacuum to give the title compound (2.65 g, 4.64 mmol). LC/MS: Rt=4.24, [MH]+ 572.

reactant | 1,4-bis[(phenylmethyl)oxy]-2,3-naphthalenedicarboxylic acid | 4.67 mmol, 2.0 g | C1(=CC=CC=C1)COC1=C(C(=C(C2=CC=CC=C12)OCC1=CC=CC=C1)C(=O)O)C(=O)O | C26H20O6
reactant | ethyl(4-aminophenyl)acetate | 9.35 mmol, 1.67 g | C(C)OC(CC1=CC=C(C=C1)N)=O | C10H13NO2
reactant | Water | O | H2O
solvent | acetic acid | 30 ml | C(C)(=O)O | C2H4O2
product | Ethyl(4-{1,3-dioxo-4,9-bis[(phenylmethyl)oxy]-1,3-dihydro-2H-benzo[f]isoindol-2-yl}phenyl)acetate | 4.64 mmol, 2.65 g | C(C)OC(CC1=CC=C(C=C1)N1C(C=2C(=C3C(=C(C2C1=O)OCC1=CC=CC=C1)C=CC=C3)OCC3=CC=CC=C3)=O)=O | C36H29NO6
